US08008298B2
1-[2-[3-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-5-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one.
This material was prepared from 1-[2-[3-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-5-hydroxy-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one via Mitsunobu type alkylation similar to that which was described as above, but using “(2,2-Dimethyl-[1,3]dioxolan-4-yl)-methanol” in place of “2-methylsulfanyl-ethanol”.

reactant | 1-[2-[3-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-5-hydroxy-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | O=S1(CCN(CC1)C=1C=C(C=C(C1)O)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C)=O | C27H38N4O5SSi
reactant | (2,2-Dimethyl-[1,3]dioxolan-4-yl)-methanol | CC1(OCC(O1)CO)C | C6H12O3
reactant | 2-methylsulfanyl-ethanol | CSCCO | C3H8OS
product | 1-[2-[3-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-5-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | CC1(OCC(O1)COC=1C=C(C=C(C1)N1CCS(CC1)(=O)=O)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C)C | C33H48N4O7SSi
